US06750231B2
1-Benzyl-4-methyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of (trimethylsilyl)diazomethane (2.0 M in hexane, 0.55 mL, 1.10 mmol) in tetrahydrofuran (5 mL) at 0° C. under an atmosphere of nitrogen was added n-butyllithium (1.6 M in hexane, 0.69 mL, 1.10 mmol) dropwise. After 1 h, a solution of 1-benzyl-4-(3-cyanophenyl)-4-methylpiperidine (Preparation 9, 300 mg, 1.03 mmol) in tetrahydrofuran (10 mL) was added such that the internal temperature remained at 0° C. After 4.5 h, the reaction was quenched with saturated sodium hydrogencarbonate (25 mL) and the mixture was extracted with diethyl ether (3×25 mL). The extracts were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo to give the title compound as a foam (360 mg, 86%).

reactant | (trimethylsilyl)diazomethane | 1.10 mmol, 2.0 M, 0.55 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | n-butyllithium | 1.10 mmol, 1.6 M, 0.69 mL | C(CCC)[Li]
reactant | 1-benzyl-4-(3-cyanophenyl)-4-methylpiperidine | 1.03 mmol, 300 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C)C1=CC(=CC=C1)C#N | C20H22N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-4-methyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine | 360 mg, 86% | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)C=1N=NNC1[Si](C)(C)C)C | C24H32N4Si
